US06121201
2-[4-Chloro-2-fluoro-5-(pyrimidyloxy)phenyl]-5-trifluoromethyl-3-pyridazinone (Compound 12-1).
Carboethoxymethylenetriphenylphosphorane (0.235 g) was added to a suspension of 3,3,3-trifluoro-2-oxopropanal 4-chloro-2-fluoro-5-(pyrimidyloxy)-phenylhydrazone (0.122 g) in toluene (15.0 ml) and the mixture was heated at reflux for 1 hour. The solvent was removed under reduced pressure and the residue chromatographed on silica gel to give the titled compound (0.10 g) mp=156-60° C. 1H NMR (CDCl3, TMS): 7.11(1H, br t), 7.32(1H, m), 7.42(1H, d, J=6.9 Hz), 7.43(1H, d J=9.0 Hz), 8.05(1H, br d), 8.58(2H, br d).

reactant | Carboethoxymethylenetriphenylphosphorane | 0.235 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | 3,3,3-trifluoro-2-oxopropanal 4-chloro-2-fluoro-5-(pyrimidyloxy)-phenylhydrazone | 0.122 g | ClC1=CC(=C(C=C1OC1=NC=CC=N1)NN=CC(C(F)(F)F)=O)F | C13H7ClF4N4O2
solvent | toluene | 15.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-Chloro-2-fluoro-5-(pyrimidyloxy)phenyl]-5-trifluoromethyl-3-pyridazinone | 0.10 g | ClC1=CC(=C(C=C1OC1=NC=CC=N1)N1N=CC(=CC1=O)C(F)(F)F)F | C15H7ClF4N4O2
